US07524852B2
Synthesis of 4-(2,4-dichlorobenzylamino)-2-(4-toluenesulfonyloxy)-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidine hydrochloride
7-Benzyl-4-(2,4-dichlorobenzylamino)-2-(4-toluenesulfonyloxy)-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidine (18.7 g, 31.9 mmol) prepared according to Process Step 2 was dissolved in 1,2-dichloroethane (110 mL), and the solution was mixed with 1-chloroethyl chloroformate (14.1 mL), followed by stirring at room temperature for 40 minutes. After checking the completion of the reaction by thin layer chromatography, the reaction mixture was diluted with water, was stirred and was extracted with ethyl acetate. The organic layer was washed with brine, was dried over anhydrous magnesium sulfate, and the solvent was distilled off. The residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=1:1) and thereby yielded a 4-(2,4-dichlorobenzylamino)-7-(1-chloroethoxycarbonyl)-2-(4-toluenesulfonyloxy)-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidine fraction. After distilling off the solvent, the residue was dissolved in methanol (150 mL), followed by stirring at room temperature for two hours. After concentrating the reaction mixture, the residue was mixed with diethyl ether for crystallization. The precipitated crystals were collected by filtration, were dried and thereby yielded 4-(2,4-dichlorobenzylamino)-2-(4-toluenesulfonyloxy)-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidine hydrochloride (7.86 g, in a yield of 53%).

reactant | 7-Benzyl-4-(2,4-dichlorobenzylamino)-2-(4-toluenesulfonyloxy)-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidine | 31.9 mmol, 18.7 g | C(C1=CC=CC=C1)N1CC=2N=C(N=C(C2CC1)NCC1=C(C=C(C=C1)Cl)Cl)OS(=O)(=O)C1=CC=C(C=C1)C | C28H26Cl2N4O3S
reactant | 1-chloroethyl chloroformate | 14.1 mL | ClC(=O)OC(C)Cl | C3H4Cl2O2
solvent | 1,2-dichloroethane | 110 mL | ClCCCl | C2H4Cl2
solvent | water | O | H2O
product | 4-(2,4-dichlorobenzylamino)-2-(4-toluenesulfonyloxy)-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidine hydrochloride | yield of 53% | Cl.ClC1=C(CNC=2C3=C(N=C(N2)OS(=O)(=O)C2=CC=C(C=C2)C)CNCC3)C=CC(=C1)Cl | InChI=1S/C21H20Cl2N4O3S.ClH/c1-13-2-6-16(7-3-13)31(28,29)30-21-26-19-12-24-9-8-17(19)20(27-21)25-11-14-4-5-15(22)10-18(14)23;/h2-7,10,24H,8-9,11-12H2,1H3,(H,25,26,27);1H
